US06476040B1
Preparation of N-(3-ethynylphenyl)-6,7-bis(2-methoxyethoxy)-4-quinazolinamine, monohydrochloride
4-[3-[[6,7-Bis(2-methoxyethoxy]-4-quinazolinyl]amino]phenyl]-2-methyl-3-butyn-2-ol, prepared above (20.0 g, 44.3 mmol), anhydrous solid sodium hydroxide (260 mg, 6.5 mmol) and propan-2-ol (200 mL) were stirred together and heated in a pressure vessel at 135-140° C. for 23 hours. The reaction mixture was cooled to 60-65° C. and concentrated hydrochloric acid (4.8 mL) was added. The resultant mixture was granulated overnight at 20-25° C. to establish crystallization. The mixture was treated with water (10 mL) and stirred at 58-60° C. for 21 hours, cooled to 15-20° C. and granulated for 2 hours. The title product crystals were isolated by filtration, washed with propan-2-ol (2×30 mL) and dried under vacuum at 45-50° C. to remove propan-2-ol. Yield (17.6 g, 92%).

reactant | 4-[3-[[6,7-Bis(2-methoxyethoxy]-4-quinazolinyl]amino]phenyl]-2-methyl-3-butyn-2-ol | COCCOC=1C=C2C(=NC=NC2=CC1OCCOC)NC=1C=C(C=CC1)C#CC(C)(O)C | C25H29N3O5
reactant | sodium hydroxide | 6.5 mmol, 260 mg | [OH-].[Na+]
reactant | hydrochloric acid | 4.8 mL | Cl | ClH
solvent | propan-2-ol | 200 mL | CC(C)O | C3H8O
product | N-(3-ethynylphenyl)-6,7-bis(2-methoxyethoxy)-4-quinazolinamine, monohydrochloride | Cl.C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OCCOC)OCCOC | InChI=1S/C22H23N3O4.ClH/c1-4-16-6-5-7-17(12-16)25-22-18-13-20(28-10-8-26-2)21(29-11-9-27-3)14-19(18)23-15-24-22;/h1,5-7,12-15H,8-11H2,2-3H3,(H,23,24,25);1H
